US07544831B2
0.0072 moles of salicylic acid and 0.029 moles acetic anhydride (molar ratio=1:4) were taken in a 20 ml reaction vessel of reaction station. Nano-crystalline sulfated zirconia catalyst (SZ-1), activated at 450° C. in static air with salicylic acid to catalyst weight ratio 10:1, was added and the mixture was heated at 90° C. for 30 minutes. The reaction mixture was filtered to separate the catalyst. The acetyl salicylic acid was crystallized from the reaction mixture. The crude yield of acetyl salicylic acid obtained was 75%. It was further re-crystallized with ethanol-water to obtain pure crystals of acetyl salicylic acid and was characterized by melting point, FT-IR, and NMR spectroscopy.

reactant | salicylic acid | 0.0072 moles | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | acetic anhydride | 0.029 moles | C(C)(=O)OC(C)=O | C4H6O3
product | acetyl salicylic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
